US08071581B2
Intermediate 40: [7-Fluoro-3-(1-methyl-1H-pyrazol-4-yl)-quinolin-6-yl]acetic acid
Nitrogen gas was bubbled through a suspension of (3-bromo-7-fluoro-quinolin-6-yl)-acetic acid (5 g, 17.7 mmol), 1-methyl-4-pyrazoleboronic acid pinacol ester (3.86 g, 18.6 mmol), potassium carbonate (7.3 g, 53 mmol) in 1,4-dioxane (50 mL) and water (20 mL) for 10 minutes. After such time dichlorobis(triphenylphosphine)palladium (II) (248 mg, 0.35 mmol) was added and the mixture heated to reflux for 3 hours. The aqueous phase was removed via pipette, diluted with 2N aqueous potassium carbonate (15 mL) and washed with ethyl acetate (2×30 mL). The aqueous phase was then acidified to pH 3 with concentrated hydrochloric acid. The formed precipitate was collected via filtration and washed with water and dried to return the title compound as a white solid (4.2 g, 14.7 mmol, 83% yield). 1H NMR 500 MHz (DMSO-d6): δ 3.84 (2H, s), 3.92 (3H, s), 7.71 (1H, d), 7.90 (1H, d), 8.10 (1H, s), 8.39 (1H, s), 8.47 (1H, d), 9.18 (1H, d). ES-MS m/z: 286 (M+H+).

reactant | (3-bromo-7-fluoro-quinolin-6-yl)-acetic acid | 17.7 mmol, 5 g | BrC=1C=NC2=CC(=C(C=C2C1)CC(=O)O)F | C11H7BrFNO2
reactant | 1-methyl-4-pyrazoleboronic acid pinacol ester | 18.6 mmol, 3.86 g | CN1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C10H17BN2O2
reactant | potassium carbonate | 53 mmol, 7.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
catalyst | Dichlorobis(triphenylphosphine)palladium | 0.35 mmol, 248 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [7-Fluoro-3-(1-methyl-1H-pyrazol-4-yl)-quinolin-6-yl]acetic acid | 14.7 mmol, 4.2 g, 83% yield | FC1=C(C=C2C=C(C=NC2=C1)C=1C=NN(C1)C)CC(=O)O | C15H12FN3O2
